US05498609
To a solution of 7-chloro-5-carboxymethoxy-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.3 g) in dichloromethane (10 ml) is added with stirring N,N-bis(2-oxo-3-oxazolidinyl)phosphinic chloride (0.2 g) under ice-cooling, and the mixture is stirred at room temperature for 15 minutes. Subsequently, to the mixture are added with stirring N-methylpiperazine (0.09 ml) and triethylamine (0.17 ml) under ice-cooling, and the mixture is stirred at room temperature overnight. Water is added to the reaction solution, and the mixture is extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethoxy]-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.23 g) as colorless amorphous.

reactant | 7-chloro-5-carboxymethoxy-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.3 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)OCC(=O)O)C1 | C26H24ClN3O5
reactant | N,N-bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.2 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | N-methylpiperazine | 0.09 ml | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethoxy]-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.23 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)OCC(=O)N2CCN(CC2)C)C1 | C31H34ClN5O4
